US08193356B2
In accordance with a process described in JP-61-246183A, 4-hydroxy-1-phenyl-1,8-naphthyridin-2(1H)-one was synthesized. To a suspension of the synthesized compound (893 mg, 3.7 mmol) in DMF (20 mL) was added sodium hydride (purity of about 60%, 192 mg, 4.8 mmol, 1.3 eq.), and the mixture was stirred until no more hydrogen was generated. Then, methoxyacetyl chloride (1.07 g, 9.9 mmol, 2.6 eq.) was added thereto, and the mixture was stirred at a room temperature for 50 minutes. To the mixture was added water. The resulting mixture was acidified with concentrated hydrochloric acid, and then the resulting precipitate was separated by filtration and dried to give 4-methoxyacetoxy-1-phenyl-1,8-naphthyridin-2(1H)-one (847 mg, yield 73%).

reactant | 4-hydroxy-1-phenyl-1,8-naphthyridin-2(1H)-one | OC1=CC(N(C2=NC=CC=C12)C1=CC=CC=C1)=O | C14H10N2O2
reactant | sodium hydride | 4.8 mmol, 192 mg, 1.3 eq. | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | methoxyacetyl chloride | 9.9 mmol, 1.07 g, 2.6 eq. | COCC(=O)Cl | C3H5ClO2
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-methoxyacetoxy-1-phenyl-1,8-naphthyridin-2(1H)-one | 847 mg, yield 73% | COCC(=O)OC1=CC(N(C2=NC=CC=C12)C1=CC=CC=C1)=O | C17H14N2O4
